US06376490B1
6,7-Dichloro-2,3-dimethoxy-5-(1-methyl-1H-tetrazol-5-yl)quinoxaline
Phosphorous pentachloride (0.136 g, 0.65 mmol) was added to a solution of 6,7-dichloro-2,3-dimethoxy-5-(N-methylcarbamoyl)quinoxaline (Preparation 7, 0.197 g, 0.62 mmol) in toluene (7 mL) and the mixture was heated under reflux under nitrogen for 1 hour. The reaction was cooled to room temperature and trimethylsilyl azide (123 μL, 0.107 g, 0.93 mmol) was added. After stirring at room temperature for 18 hours, dilute aqueous ammonia solution (20 mL) was added and the mixture was extracted with dichloromethane (3×50 mL). The combined organic extracts were dried (MgSO4) and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel, eluting with dichloromethane to give the title compound (0.080 g, 38%) as a white solid.

reactant | Phosphorous pentachloride | 0.65 mmol, 0.136 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 6,7-dichloro-2,3-dimethoxy-5-(N-methylcarbamoyl)quinoxaline | 0.62 mmol, 0.197 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C(NC)=O | C12H11Cl2N3O3
reactant | trimethylsilyl azide | 0.93 mmol, 123 μL, 0.107 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | ammonia | 20 mL | N | H3N
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | 6,7-Dichloro-2,3-dimethoxy-5-(1-methyl-1H-tetrazol-5-yl)quinoxaline | 0.080 g, 38% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C1=NN=NN1C | C12H10Cl2N6O2
